US07338973B2
11-(4-benzyloxy-benzyl)-8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene
To a mixture of 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene (100 mg, 0.398 mmoL) in DMF (2 mL) was added NaH (60%, 24 mg, 0.598 mmoL) at 0° C. After 10 minutes, benzyl chloride (139 mg, 0.598 mmoL) was added dropwise into the reaction mixture at 0° C. The reaction mixture was slowly warmed to room temperature over 2 hours. The reaction mixture was then partitioned between EtOAc and saturated NH4Cl. The aqueous phase was extracted two times with EtOAc. The organic layers from the two extractions were combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The oil was then purified by column chromatography (silica gel, hexanes:EtOAc 4:1 as eluent) to yield the title compound as a pale solid.

reactant | 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | 100 mg | COC=1C=C2C=3COC4=C(C3NC2=CC1)C=CC=C4 | C16H13NO2
reactant | NaH | 24 mg | [H-].[Na+]
reactant | benzyl chloride | 139 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 11-(4-benzyloxy-benzyl)-8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | C(C1=CC=CC=C1)OC1=CC=C(CN2C3=CC=C(C=C3C=3COC4=C(C23)C=CC=C4)OC)C=C1 | C30H25NO3
